US06777414B1
2,3-Lutidine (1.0 g, 9.33 mmol) was refluxed in a 1,4-dioxane (20 ml) solution in the presence of selenium dioxide (1.24 g, 11.2 mmol) in an argon atmosphere for one hr. The temperature of the reaction solution was then returned to room temperature, and the reaction solution was filtered. The solvent was removed from the filtrate by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:2) to give 422 mg (37.3%) of 3-methylpyridine-2-carbaldehyde as a colorless liquid.

reactant | 2,3-Lutidine | 9.33 mmol, 1.0 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | selenium dioxide | 11.2 mmol, 1.24 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-methylpyridine-2-carbaldehyde | 422 mg, 37.3% | CC=1C(=NC=CC1)C=O | C7H7NO
